US06159970
tert-Butyl (R)-4-(7-Amino-4-bromo-5,6,7,8-tetrahydro-1-naphthyl)piperazin-1-carboxylate
To an ice-cooled solution of (R)-2-amino-5-bromo-8-(piperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (0.8 g, 2.6 mmol) and triethylamine (0.53 mL, 3.9 mmol) in methylene chloride (50 mL) was added di-tert-butyl dicarbonate (0.56 g, 2.6 mmol) dissolved in methylene chloride (10 mL). After the addition, the reaction was allowed to stir at ambient temperature for 1 h. Water (10 mL) was added and the mixture was cooled on an ice-bath. The water phase was alkalized with a 2 M aqueous solution of sodium hydroxide and the phases were separated. The organic phase was dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/methanol/concentrated ammonium hydroxide (95:5:0.5) as the eluent. Yield: 0.41 g (38%) of a viscous colorless oil: [α]21D +13° (c=1, chloroform); EIMS (70 eV) m/z (relative intensity) 409 and 411 (75, M+)

reactant | (R)-2-amino-5-bromo-8-(piperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 2.6 mmol, 0.8 g | N[C@H]1CC2=C(C=CC(=C2CC1)Br)N1CCNCC1 | C14H20BrN3
reactant | triethylamine | 3.9 mmol, 0.53 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.6 mmol, 0.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | Water | 10 mL | O | H2O
product | tert-Butyl (R)-4-(7-Amino-4-bromo-5,6,7,8-tetrahydro-1-naphthyl)piperazin-1-carboxylate | N[C@@H]1CCC=2C(=CC=C(C2C1)N1CCN(CC1)C(=O)OC(C)(C)C)Br | C19H28BrN3O2
